US04760163
A solution of 3.6 g of ethyl 2-chloro-5-[1,4,5,6,7,8-hexahydro-1-methyl-2,4-dioxo-3(2H)-quinazolinyl]-benzoate in 70 ml of ethanol is held at 60° C. for 10 minutes with 0.6 g of sodium hydroxide in 70 ml of water and subsequently stirred for 1 hour. The solution is substantially evaporated down under reduced pressure and the residue is brought to pH 1 with 2N hydrochloric acid. The precipatate is shaken five times with 50 ml amounts of diethyl ether and the organic phases are dried over anhydrous sodium sulphate and evaporated to dryness under reduced pressure. 2-Chloro-5-[1,4,5,6,7,8-hexahydro-1-methyl-2,4-dioxo-3(2H)-quinazolinyl]-benzoic acid is obtained.

reactant | ethyl 2-chloro-5-[1,4,5,6,7,8-hexahydro-1-methyl-2,4-dioxo-3(2H)-quinazolinyl]-benzoate | 3.6 g | ClC1=C(C(=O)OCC)C=C(C=C1)N1C(N(C=2CCCCC2C1=O)C)=O | C18H19ClN2O4
reactant | sodium hydroxide | 0.6 g | [OH-].[Na+]
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | water | 70 ml | O | H2O
product | 2-Chloro-5-[1,4,5,6,7,8-hexahydro-1-methyl-2,4-dioxo-3(2H)-quinazolinyl]-benzoic acid | ClC1=C(C(=O)O)C=C(C=C1)N1C(N(C=2CCCCC2C1=O)C)=O | C16H15ClN2O4
